US08895535B2
Thionyl chloride is added at 0° C. (5.8 g) to a solution of 2-oxo-1-phenylpyrrolidine-3-carboxylic acid (5 g) in ethanol, and the batch is stirred at 80° C. for 4 h. When the reaction is complete, the batch is concentrated in vacuo, the residue is taken up in water and extracted with ethyl acetate. The organic phase is washed with saturated sodium bicarbonate solution and saturated sodium chloride solution and dried over sodium sulfate, giving ethyl 2-oxo-1-phenylpyrrolidine-3-carboxylate (4.5 g, 79%);

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-oxo-1-phenylpyrrolidine-3-carboxylic acid | 5 g | O=C1N(CCC1C(=O)O)C1=CC=CC=C1 | C11H11NO3
reactant | ethanol | C(C)O | C2H6O
product | ethyl 2-oxo-1-phenylpyrrolidine-3-carboxylate | 4.5 g, 79% | O=C1N(CCC1C(=O)OCC)C1=CC=CC=C1 | C13H15NO3
